US08981111B2
To a solution of 4-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine (165 mg, 0.53 mmol) in 1,4-dioxane (15 mL) were sequentially added triethylamine (0.18 mL, 1.30 mmol), isobutyric anhydride (0.44 mL, 2.60 mmol) and N,N-dimethylformamide (3 drops). After refluxing for 6.5 h, the mixture was concentrated in vacuo, diluted in ethyl acetate (50 mL), washed with water (2×30 mL), dried over MgSO4 and concentrated to dryness in vacuo. Purification on silica gel afforded 2-methyl-N-{4-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}propanamide [178 mg, yield 84%; HPLC/MS: m/z=384 (M+H); log P(HCOOH)=1.63].

reactant | 4-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine | 0.53 mmol, 165 mg | CN1C=NC=C1C(C1=CC=CC=C1)=NOCC=1N=C(SC1)N | C15H15N5OS
reactant | triethylamine | 1.30 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyric anhydride | 2.60 mmol, 0.44 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2-methyl-N-{4-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}propanamide | 178 mg, yield 84% | CC(C(=O)NC=1SC=C(N1)CON=C(C1=CC=CC=C1)C1=CN=CN1C)C | C19H21N5O2S
